US05688795
A mixture of benzyl 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino-formate (384.4 g, I mol) and 10% palladium on carbon (38.4 g) in 3.5L of nitrogen-purged ethanol was hydrogenated at atmospheric pressure for 80 minutes while cooled such that the reaction temperature remained below 30° C. The mixture was filtered and the filtrate was concentrated under reduced pressure to give 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamine (230.8 g, 0.93 mol) as an oil.

reactant | benzyl 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino-formate | 384.4 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCNC(=O)OCC1=CC=CC=C1 | C22H29N3O3
catalyst | palladium on carbon | 38.4 g | [Pd] | Pd
product | 3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamine | 0.93 mol, 230.8 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCN | C14H23N3O
